US05175166
1-Methyl-1,4,5,6-Tetrahydro-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyrimidine
Sodium hydride (60% dispersion in mineral oil 112 mg, 2.8 mmol) and acetamidoxime (207 mg, 2.8 mmol) are suspended in dry THF (16 ml) in an oven dried round bottom flask under nitrogen with stirring at 0° C. After 10 minutes the grey suspension is refluxed for 30 minutes giving a white suspension. 1-Methyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine (593 mg, 2.8 mmol) dissolved in dry THF (4 ml) and anhydrous ethanol (1 ml) is added via syringe and reflux continued 15 hours. The suspension is evaporated in vacuo to a yellow gum and chromatographed (silica, chloroform/methanol, 9:1) to yield 24 mg (rf=0.07, 4%) solids identified by 300 MHz nmr and ms m/z=180.

reactant | Sodium hydride | 2.8 mmol, 112 mg | [H-].[Na+]
reactant | acetamidoxime | 2.8 mmol, 207 mg | C(C)(N)=NO | C2H6N2O
reactant | 1-Methyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine | 2.8 mmol, 593 mg | CN1C=NCC(C1)C(=O)OC | C7H12N2O2
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-Methyl-1,4,5,6-Tetrahydro-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyrimidine | CN1C=NCC(C1)C1=NC(=NO1)C | C8H12N4O
